US04853389
Step (3) Preparation of 1,3-Dimethyl-2,4-dioxo-N-(1,1-dimethylethyl)-5-pyrimidinesulfonamide
To a stirred suspension of 1,3-dimethyl-2,4-dioxo-5-pyrimidinesulfonyl chloride (300 g, 1.26M) in methylene chloride (2500 mL) at room temperature was added dropwise tert-butylamine (300 mL, 2.85M). The exotherm was allowed to proceed to 35° C. with mild cooling. After addition the reaction was refluxed for 30 minutes, cooled to room temperature and the tertbutylamine.HCl filtered off. The methylene chloride was then washed with diluted hydrochloric acid (700 mL), dried over MgSO4, and stripped under vacuo. Recrystallization of the white solid from ethanol afforded the desired compound (652 g, 94%) in three crops, m.p. 143°-144° C.

reactant | 1,3-dimethyl-2,4-dioxo-5-pyrimidinesulfonyl chloride | 1.26M, 300 g | CN1C(N(C(C(=C1)S(=O)(=O)Cl)=O)C)=O | C6H7ClN2O4S
reactant | tert-butylamine | 2.85M, 300 mL | C(C)(C)(C)N | C4H11N
solvent | methylene chloride | 2500 mL | C(Cl)Cl | CH2Cl2
product | 1,3-Dimethyl-2,4-dioxo-N-(1,1-dimethylethyl)-5-pyrimidinesulfonamide | 652 g, 94% | CN1C(N(C(C(=C1)S(=O)(=O)NC(C)(C)C)=O)C)=O | C10H17N3O4S
